US03997506
EXAMPLE 2 -- Preparation of N-desacetyl-thiocolchicine
A mixture containing 16.3 g of thiocolchicine, 200 ml of methanol and 200 ml of aqueous HCl (2N) is heated under reflux. The hydrolysis reaction which occurs is complete at the end of a period of time of 28 hours. 215 ml of aqueous methanol are then distilled off and the remaining aqueous solution extracted 3 times with 300 ml of chloroform. The chloroform extracts are combined and the mixture thereof washed 4 times with 300 ml of water. The remaining part of the aforesaid aqueous solution and the aqueous washing solutions are combined and alcalinized to pH13 by adding aqueous sodium hydroxide 10N. The desired product passes into the form of the free amine and is extracted using 5 portions of 300 ml of chloroform. The chloroform extracts are combined, washed with water until neutrality and dried. After evaporation of the solvent, the amine is recrystallized from a mixture chloroform (65ml)-ether (390 ml) to give 11.9 g of the product (yield 79 %).

reactant | thiocolchicine | 16.3 g | CC(=O)N[C@H]1CCC2=CC(=C(C(=C2C3=CC=C(C(=O)C=C13)SC)OC)OC)OC | C22H25NO5S
reactant | HCl | 2N, 200 ml | Cl | ClH
solvent | methanol | 200 ml | CO | CH4O
product | N-desacetyl-thiocolchicine | 11.9 g, yield 79 % | COC1=C(C(=C2C(=C1)CC[C@@H](C3=CC(=O)C(=CC=C32)SC)N)OC)OC | C20H23NO4S
